US05700818
7-(3-Dimethylaminopropenyl)-2,3-dihydrobenzofuran-5-ylamine (D17)
A solution of 1-(5-amino-2,3-dihydrobenzofuran-7-yl)-3-dimethylaminopropan-1-ol (D 16) (2.12 g) in trifluoroacetic acid (60 ml) was refluxed for 10h, cooled and the solvent evaporated under reduced pressure. The residue was partitioned between 10% Na2CO3 and ethyl acetate, the organic phase was dried (Na2SO4) and the solvent evaporated under reduced pressure, to give the title compound as an orange foam (2.07 g, quantitative).

reactant | 1-(5-amino-2,3-dihydrobenzofuran-7-yl)-3-dimethylaminopropan-1-ol | 2.12 g | NC=1C=C(C2=C(CCO2)C1)C(CCN(C)C)O | C13H20N2O2
solvent | trifluoroacetic acid | 60 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-(3-Dimethylaminopropenyl)-2,3-dihydrobenzofuran-5-ylamine | 2.07 g | CN(CC=CC1=CC(=CC=2CCOC21)N)C | C13H18N2O
